US04911748
N-acetyl-3-(2,5-difluorophenyl)imidazolidine-2,4-dione (2.1 g, 8.2 mmol), 4-methylbenzaldehyde (1.05 g, 8.7 mmol) and triethylamine (1.7 g, 16.5 mmol) were heated under reflux in DMF (20 mL) for 4 hours. The solution was cooled diluted with water and extracted with ethyl acetate (3×). The combined extracts were washed with brine (saturated), dried (over MgSO4), filtered and concentrated to give 2.3 grams of 5-(4-methylbenzylidene)-3-(2,5-difluorophenyl)imidazolidine-2,4-dione, m.p. 218°-224° C.

reactant | N-acetyl-3-(2,5-difluorophenyl)imidazolidine-2,4-dione | 8.2 mmol, 2.1 g | C(C)(=O)N1C(N(C(C1)=O)C1=C(C=CC(=C1)F)F)=O | C11H8F2N2O3
reactant | 4-methylbenzaldehyde | 8.7 mmol, 1.05 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | triethylamine | 16.5 mmol, 1.7 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(4-methylbenzylidene)-3-(2,5-difluorophenyl)imidazolidine-2,4-dione | 2.3 grams | CC1=CC=C(C=C2C(N(C(N2)=O)C2=C(C=CC(=C2)F)F)=O)C=C1 | C17H12F2N2O2
